US07351733B2
6-Chloro-N-(4,6-dimethylpyrimidin-2-yl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine was prepared from 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine and 2-chloro-4,6-dimethylpyrimidine in a similar manner as described above to give 6 mg (8% yield) of a pale yellow oil. 1H-NMR (CDCl3): δ 9.23 (s, 1H), 7.45 (s, 1H), 7.16 (d, 1H), 7.07 (d, 1H), 6.42 (s, 1H), 5.25 (m, 1H), 5.20 (m, 1H), 2.70 (m, 2H), 2.35 (s, 6H), 2.29 (m, 1H), 2.03-1.83 (m, 3H); MS m/z 327 (M+1).

reactant | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-amine | ClC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13ClN2
reactant | 2-chloro-4,6-dimethylpyrimidine | ClC1=NC(=CC(=N1)C)C | C6H7ClN2
product | 6-Chloro-N-(4,6-dimethylpyrimidin-2-yl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine | ClC=1C=C2C=3CCCC(C3NC2=CC1)NC1=NC(=CC(=N1)C)C | C18H19ClN4
